US04977146
Step 16C: 1-[3(2-Hydroxyethylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl)butan-1,4-dione
n-Propyl bromide (1.63 mL, 17.8 mmol) was added to a solution of 1-[3-(2-hydroxyethylsulfonyl)-4-hydroxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl)butan-1,4-dione (5.53 g, 9.91 mmol) in DMF (10 mL) containing postassium carbonate (2.74 g, 19.9 mmol). The mixture was stirred at 75° C. for 2 h, and partitioned between ethyl ether and water. The aqueous layer was re-extracted with ether (2 x) and ethyl acetate. The organic extracts were combined, dried, and evaporated to dryness. The residue was triturated with Et2O to give crystals, which was washed with Et2O containing a small volume of acetone. This material, Rf 0.53 (hexane-ethyl acetate; 1:2, v/v), was used directly in the next experiment without further purification.

reactant | n-Propyl bromide | 17.8 mmol, 1.63 mL | CCCBr | C3H7Br
reactant | 1-[3-(2-hydroxyethylsulfonyl)-4-hydroxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl)butan-1,4-dione | 9.91 mmol, 5.53 g | OCCS(=O)(=O)C=1C=C(C=C(C1O)OCC1=CC=CC=C1)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O | C28H30O10S
reactant | carbonate | 19.9 mmol, 2.74 g | C([O-])([O-])=O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-[3(2-Hydroxyethylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl)butan-1,4-dione | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O | C31H36O10S
